US04503073
7-(4-Fluorobenzoyl)-3-methylthioindolin-2-one
A solution of 42.2 g (0.196 mole) of 2-amino-4'-fluorobenzophenone in 2 liters of methylene chloride was cooled to -65° C. and 26.5 g (0.198 mole) of ethyl methylthioacetate was added. A solution of 23.0 g (0.21 mole) of 95% tertiary butoxychloride in 50 ml of methylene chloride was added dropwise, keeping the temperature below -65° C. One hour after the addition was complete, 22.2 g (0.22 mol) of triethylamine was added dropwise and the mixture was allowed to warm to room temperature. The solution was concentrated to 700 ml and then washed with water. The organic solution was concentrated and the residue dissolved in 400 ml of methanol containing 30 ml of concentrated hydrochloric acid. The mixture was heated at reflux for one hour followed by cooling. The mixture was allowed to stand overnight, the crystals collected and washed with methanol to yield 31.4 g (53%) as bright yellow solid, m.p. 165°- 167.5° C.

reactant | 2-amino-4'-fluorobenzophenone | 0.196 mole, 42.2 g | NC1=C(C(=O)C2=CC=C(C=C2)F)C=CC=C1 | C13H10FNO
reactant | ethyl methylthioacetate | 0.198 mole, 26.5 g | CCC(=S)OCC | C5H10OS
reactant | tertiary butoxychloride | 0.21 mole, 23.0 g | C(C)(C)(C)OCl | C4H9ClO
reactant | triethylamine | 0.22 mol, 22.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 liters | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 7-(4-Fluorobenzoyl)-3-methylthioindolin-2-one | FC1=CC=C(C(=O)C=2C=CC=C3C(C(NC23)=O)SC)C=C1 | C16H12FNO2S
